US07947683B2
5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione
Tetrahydro-2H-pyran-2-one (2 ml), N-methylhydrazinecarbothioamide (3.4 g) and acetic acid (0.3 ml) were suspended in methanol (10 ml). The reaction was heated in microwave oven at 120° C. for 20′ followed by further 10′ at 110° C. Acetic acid was added (0.3 ml) and reaction was heated in a microwave oven at 140° C. for 20′, further acetic acid (0.3 ml) was added and the reaction was in a microwave oven at 140° C. for 20′. The solvent was removed under reduced pressure, DCM was added to the crude and solid filtered-off. Solvent was removed under reduced pressure to give a crude product that was purified by flash chromatography on silica gel (DCM/MeOH from 0 to 10%) to give the title compound as a white solid (1 g).

reactant | Tetrahydro-2H-pyran-2-one | 2 ml | O1C(CCCC1)=O | C5H8O2
reactant | N-methylhydrazinecarbothioamide | 3.4 g | CNC(=S)NN | C2H7N3S
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 1 g | OCCCCC=1N(C(NN1)=S)C | C7H13N3OS
